US04457862
9.6 g of 2-[1-methyl-2-methylene-3-(prop-1-en-2-yl)-cyclopentylcarbonyl]-cyclopentanone are treated in 100 ml of absolute alcohol with 1 g of 5% palladium-on-carbon and the mixture is hydrogenated at normal pressure. After completion of the hydrogen uptake (8 hours), the mixture is filtered, the filtrate is concentrated and the residue is chromatographed on a hundred-fold amount of silica gel with toluene/ethyl acetate (1:2). There are obtained 1.7 g of 2-(1,2-dimethyl-3-isopropyl-cyclopentylcarbonyl)-cyclopentanone, which are contaminated with a small amount (<5%) of 2-(1,2-dimethyl-3-isopropyl-cyclopent-2-en-1-yl-carbonyl)-cyclopentanone or 2-(1,2-dimethyl-3-isopropylidenecyclopentyl carbonyl)-cyclopentanone.

reactant | 2-[1-methyl-2-methylene-3-(prop-1-en-2-yl)-cyclopentylcarbonyl]-cyclopentanone | 9.6 g | CC1(C(C(CC1)C(=C)C)=C)C(=O)C1C(CCC1)=O | C16H22O2
catalyst | palladium-on-carbon | 1 g | [Pd] | Pd
product | 2-(1,2-dimethyl-3-isopropyl-cyclopentylcarbonyl)-cyclopentanone | 1.7 g | CC1(C(C(CC1)C(C)C)C)C(=O)C1C(CCC1)=O | C16H26O2
